US05411979
To a mixture of 1.14 g (4.40 mmol. ) of 2-amino- 3-(4-phenoxyphenoxy)propanol, 0.58 g (5.72 mmol.) of triethylamine and 20 ml of anhydrous tetrahydrofuran, there was added dropwise a solution of 0.78 g (4.40 mmol.) of 2,6-difluorobenzoylchloride in 10 ml of anhydrous tetrahydrofuran with stirring at a temperature of from 5° C. to 10° C. for 5 minutes. After addition, the reaction mixture was stirred at room temperature for 2 hours. The above mixture was filtrated with a filter glass to remove the resultant precipitate and the filtrate was concentrated under reduced pressure. To the residue, there was added 20 ml of toluene and 10 ml of thionyl chloride and the reaction mixture was refluxed by heating with stirring for 5 hours. The reaction mixture was cooled;to room temperature and concentrated under reduced pressure. To the residue, there was added 20 ml of methanol and further added dropwise 1 ml of a 5N aqueous solution of sodium hydroxide with stirring at a temperature of 60° C. for 5 minutes. Then the reaction mixture was stirred at the same temperature for 5 hours. After the reaction was completed, the reaction mixture was cooled to room temperature and concentrated under reduced pressure. To the residue, there was added 100 ml of ethyl acetate. The mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to give 1.28 g of 2-(2,6-difluorophenyl)-4-[(4-phenoxyphenoxy)methyl]-2-oxazoline as a colorless oily substance (nD19.1 1.5814).

reactant | 2-amino- 3-(4-phenoxyphenoxy)propanol | 4.40 mmol, 1.14 g | NC(CO)COC1=CC=C(C=C1)OC1=CC=CC=C1 | C15H17NO3
reactant | triethylamine | 5.72 mmol, 0.58 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-difluorobenzoylchloride | 4.40 mmol, 0.78 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(2,6-difluorophenyl)-4-[(4-phenoxyphenoxy)methyl]-2-oxazoline | 1.28 g | FC1=C(C(=CC=C1)F)C=1OCC(N1)COC1=CC=C(C=C1)OC1=CC=CC=C1 | C22H17F2NO3
